US04788199
A solution of diethyl methylmalonate (23 g) in anhydrous tetrahydrofuran (100 cc) is added under nitrogen to sodium hydride (4 g, 80% strength in oil) and anhydrous tetrahydrofuran (60 cc). After 1 hour's stirring, a solution of 4-bromomethyl-2-phenylquinazoline (9.9 g) in anhydrous tetrahydrofuran (100 cc) is added, and the mixture is stirred for a further 2 hours at room temperature (approximately 20° C.). Water (100 cc) is added and the mixture is extracted with ethyl acetate (3×100 cc). The organic phase is dried over magnesium sulphate and then evaporated to dryness under reduced pressure. The residue is taken up in concentrated hydrochloric acid (100 cc) and acetic acid (100 cc) and the mixture is brought to 110° C. for 24 hours. After the mixture has cooled, the precipitate is filtered off and washed with water and then ispropyl ether. After being dried, α-methyl-2-phenyl-4-quinazolinepropanoic acid (4 g), m.p. 180° C., is obtained.

reactant | diethyl methylmalonate | 23 g | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | sodium hydride | 4 g | [H-].[Na+]
reactant | 4-bromomethyl-2-phenylquinazoline | 9.9 g | BrCC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C15H11BrN2
reactant | Water | 100 cc | O | H2O
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 cc | O1CCCC1 | C4H8O
product | α-methyl-2-phenyl-4-quinazolinepropanoic acid | 4 g | CC(C(=O)O)CC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C18H16N2O2
